US08957074B2
2-Acetamidoacetic acid (12 mg, 0.102 mmol) was combined with diisopropylethylamine (0.018 ml, 0.102 mmol) and HBTU (38.8 mg, 0.102 mmol) in DMF (1 ml) for 15 min. 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (50 mg, 0.102 mmol) was then added and the reaction allowed to stir for 4 hrs. The reaction was then poured into brine and extracted with ethyl acetate. The combined ethyl acetate extracts were dried with sodium sulfate, filtered, concentrated and the resulting residue purified by silica gel chromatography which gave 2-(5-((1S,6R)-9-(2-acetamidoacetyl)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide (45 mg) in 77% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.71 (d, J=8.08 Hz, 2H), 8.82 (s, 1H), 8.14 (d, J=2.53 Hz, 1H), 8.07 (d, J=6.06 Hz, 1H), 7.61 (d, J=9.09 Hz, 2H), 6.63 (s, 2H), 4.76 (m, 2H), 4.53 (br. s., 1H), 4.44 (br. s., 0H), 4.21 (d, J=14.65 Hz, 0H), 3.95 (m, 2H), 3.61 (dd, J=14.91, 5.81 Hz, 1H), 3.04 (m, 6H), 2.78 (m, 1H), 2.40 (m, 3H), 2.00 (m, 6H), 1.89 (s, 3H), 1.66 (m, 3H). MS ink 588.6 (M+H)

reactant | 2-Acetamidoacetic acid | 0.102 mmol, 12 mg | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | diisopropylethylamine | 0.102 mmol, 0.018 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.102 mmol, 38.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 7-Cyclopentyl-N,N-dimethyl-2-(5-((1S,6R)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 0.102 mmol, 50 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2C[C@@H]1CC[C@H](CC2=O)N1)C(=O)N(C)C | C26H32N8O2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | 2-(5-((1S,6R)-9-(2-acetamidoacetyl)-4-oxo-3,9-diazabicyclo[4.2.1]nonan-3-yl)pyridin-2-ylamino)-7-cyclopentyl-N,N-dimethyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxamide | 45 mg, 77% yield | C(C)(=O)NCC(=O)N1[C@@H]2CN(C(C[C@H]1CC2)=O)C=2C=CC(=NC2)NC=2N=CC1=C(N2)N(C(=C1)C(=O)N(C)C)C1CCCC1 | C30H37N9O4
